US08137821B2
820 mg (4.58 mmol) of Dimethylhydroxymethyl-5-fluoro-2-pyridylacetylene and 192 mg (4.81 mmol) of NaOH (KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98%) were placed in a 50 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 23 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 0.25 hour. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure at 90 mmHg/70° C. to give 5-fluoro-2-pyridylethyne as an orange-color liquid (0.35 g, yield: 63%).

reactant | Dimethylhydroxymethyl-5-fluoro-2-pyridylacetylene | 4.58 mmol, 820 mg | CC1=C(C(=NC=C1F)C#CCO)C | C10H10FNO
reactant | NaOH | 4.81 mmol, 192 mg | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 23 mL | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-2-pyridylethyne | 0.35 g, yield: 63% | FC=1C=CC(=NC1)C#C | C7H4FN
